US05317016
To a solution of (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-tritylthio-2-(N-p-methoxybenzyloxycarbonyl-N-methylaminosulfonyl)aminomethylpyrrolidine (1.5 g: 1.88 mmole) in a mixture of dichloromethane (4 ml) and methanol (10 ml), a solution of pyridine (381 μl: 2.5 eq.) and silver nitrate (640 mg: 2 eq.) in water (6 ml) is added with stirring under ice cooling. The mixture is stirred at the same temperature for 30 minutes. The reaction mixture is diluted with dichloromethane, washed with water, dried over magnesium sulfate, and concentrated in vacuo to about 5 ml. The residue is dissolved in methanol (10 ml) and hydrogen sulfide is bubbled through it. The mixture freed from solid by filtering is concentrated in vacuo. The residue is purified by silica gel column chromatography (toluene:ethyl acetate=2:1) to give (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-mercapto-2-(N-p-methoxybenzyloxycarbonyl-N-methylaminosulfonyl)aminomethylpyrrolidine (866 mg). Yield: 83%. NMR δ(CDCl3) ppm: 1.6 to 1.8(m, 1H), 2.3 to 2.6(m, 1H), 2.9 to 3.4(m, 5H), 3.3(s, 3H), 3.8(s, 6H), 3.8 to 4.2(m, 1H), 6.3 to 6.6(m, 1H), 6.88(d, J=8.6 Hz, 2H), 7.2 to 7.4(m, 2H). IR ν (CHCl3) cm-1 : 1690.

reactant | (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-tritylthio-2-(N-p-methoxybenzyloxycarbonyl-N-methylaminosulfonyl)aminomethylpyrrolidine | 1.88 mmole, 1.5 g | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CNS(=O)(=O)N(C)C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C43H45N3O8S2
reactant | pyridine | 381 μl, 2.5 eq. | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
catalyst | silver nitrate | 640 mg, 2 eq. | [N+](=O)([O-])[O-].[Ag+]
product | (2S,4S)-1-p-methoxybenzyloxycarbonyl-4-mercapto-2-(N-p-methoxybenzyloxycarbonyl-N-methylaminosulfonyl)aminomethylpyrrolidine | 866 mg, Yield: 83% | COC1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)S)CNS(=O)(=O)N(C)C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C24H31N3O8S2
